US04855298
Ethoxycarbonyl chloride (10.5 ml) is added dropwise to a mixture of 5-chloroisatin (18.16 g), tetrahydrofuran (180 ml) and triethylamine (15.3 ml) with stirring, and the mixture is stirred at room temperature for 5 minutes. The mixture is concentrated under reduced pressure to remove solvent, and water is added to the residue. Crystalline precipitates are collected by filtration, washed with isopropanol and isopropyl ether and then dried, whereby 5-chloro-1-ethoxycarbonylisatin (23.3 g) is obtained.

reactant | Ethoxycarbonyl chloride | 10.5 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 5-chloroisatin | 18.16 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
product | 5-chloro-1-ethoxycarbonylisatin | 23.3 g | ClC=1C=C2C(C(N(C2=CC1)C(=O)OCC)=O)=O | C11H8ClNO4
